US04116956
A mixture of 2.8 parts of 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine, 2.4 parts of formamidine hydrochloride and 2.5 parts of 2-methylimidazole is fused at 160° C for 10 minutes. Water is added to the mixture, followed by extraction with methylene chloride. The methylene chloride layer is washed with water, dried over sodium sulfate and the solvent is evaporated, whereby 8-chloro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine is yielded. Recrystallization from ethyl acetate yields colorless flakes melting at 226° C to 227° C.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | formamidine hydrochloride | Cl.C(=N)N
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
solvent | Water | O | H2O
product | 8-chloro-6-phenyl-4H-s-triazolo [4,3-a][1,4] benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=NN3)C3=CC=CC=C3)C1 | C16H11ClN4
